US04742069
A solution of 6.8 g of (S)-3-nitrobenzylideneacetoacetic acid 1-phenylethyl ester in a mixture of 20 ml of isopropanol and 10 ml of dimethylformamide was treated under argon with 4.40 g of 4-amino-N-isopropyl-2-oxo-3-pentenesulfonamide and the mixture was thereupon heated to reflux for 8 hours. After concentration under reduced pressure the oily residue was chromatographed on 800 g of silica gel with methylene chloride/ethyl acetate (4:1) as the elution agent, whereby the two expected epimers were eluted as a mixture. The homogeneous fractions yielded an oil which was taken up in 300 ml of ether and left to stand at room temperature overnight. The crystallized-out product was filtered off, washed with a small amount of ether and recrystallized from ethanol. There were obtained 2.3 g of (R)-1,4-dihydro-5-[(isopropylsulfamoyl)acetyl]-2,6-dimethyl-4-(3-nitrophenyl)nicotinic acid (S)-1-phenylethyl ester in the form of yellow crystals, m.p. 151°-153°, specific rotation: [α]54620 =+518° (c=1.0% w/v, ethanol). On the basis of the NMR spectrum this was the (+)-enantiomer of the racemate A described in Example 14.

reactant | (S)-3-nitrobenzylideneacetoacetic acid 1-phenylethyl ester | 6.8 g | C1(=CC=CC=C1)[C@H](C)OC(CC(=O)C=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C19H17NO5
reactant | 4-amino-N-isopropyl-2-oxo-3-pentenesulfonamide | 4.40 g | NC(=CC(CS(=O)(=O)NC(C)C)=O)C | C8H16N2O3S
reactant | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ether | 300 ml | CCOCC | C4H10O
product | (R)-1,4-dihydro-5-[(isopropylsulfamoyl)acetyl]-2,6-dimethyl-4-(3-nitrophenyl)nicotinic acid (S)-1-phenylethyl ester | 2.3 g | C1(=CC=CC=C1)[C@H](C)OC(C1=C(NC(=C([C@H]1C1=CC(=CC=C1)[N+](=O)[O-])C(CS(NC(C)C)(=O)=O)=O)C)C)=O | C27H31N3O7S
